US05866592
N-4-Amidinobenzoyl-β-styryl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid t-butyl ester (30 mg, 0.055 mmol) was dissolved in a mixed solution of TFA (10 ml) and water (0.5 ml). The resulting solution was stirred at room temperature for 3 hours. After the TFA was distilled off at room temperature, the residue was purified by the same method as in Example 2-(6-4) to yield N-(N-4-amidinobenzoyl-β-styryl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid (7.2 mg, 26.7%).

reactant | N-4-Amidinobenzoyl-β-styryl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid t-butyl ester | 0.055 mmol, 30 mg | C(C)(C)(C)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C(N)=N)=O)C=CC1=CC=CC=C1)(C)C)=O)=O | C32H42N4O4
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 0.5 ml | O | H2O
product | N-(N-4-amidinobenzoyl-β-styryl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid | 7.2 mg, 26.7% | C(N)(=N)C1=CC=C(C(=O)NC(C(C(=O)N2CCC(CC2)CC(=O)O)(C)C)C=CC2=CC=CC=C2)C=C1 | C28H34N4O4
